US08278302B2
1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carboxylic acid [3-bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-amide
To a solution of 1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carboxylic acid as DIPEA salt (2.6 g) in DMF (100 ml) was added DIPEA (2.1 g), and HATU (4 g). 3-Bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenylamine (1.4 g) was added and the reaction stirred overnight at rt. The reaction mixture was filtered and the filtrate partitioned between water and EtOAc. The organic layer was separated, dried and concentrated in vacuum and the residue purified by flash chromatography (DCM:MeOH 100:0 to 95:5 gradient) to give the title compound (400 mg). Rf=0.19 (95:5 DCM:MeOH).

reactant | 1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carboxylic acid | ClC1=C(C=C(CN2CCC(CC2)N2C(CCC2=O)C(=O)O)C=C1)C | C18H23ClN2O3
reactant | DIPEA | 2.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DIPEA | 2.1 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-Bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenylamine | 1.4 g | BrC=1C=C(C=C(C1)C1=NN=NN1C)N | C8H8BrN5
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carboxylic acid [3-bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-amide | 400 mg | BrC=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)C1N(C(CC1)=O)C1CCN(CC1)CC1=CC(=C(C=C1)Cl)C | C26H29BrClN7O2
